US07524852B2
Synthesis of 4-methyl-3-(piperazinylmethyl)morpholine for use in the syntheses of Compounds 15-62 to 15-64 Process Step 1
(4-Benzylmorpholin-3-yl)methanol (3.00 g, 22.9 mmol) described in Journal of Chemical Society, Perkin Transactions 1, p. 2577 (1985) was dissolved in tetrahydrofuran (5 mL), and the solution was mixed with triethylamine (6.30 mL, 49.2 mmol) and methanesulfonic anhydride (3.20 g, 18.5 mmol), followed by stirring at room temperature for two hours. After checking the completion of the reaction by thin layer chromatography, the reaction mixture was mixed with chloroform (50 mL) and a saturated aqueous sodium bicarbonate solution (50 mL), followed by separation. The organic layer was washed with brine (100 mL), was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting pale yellow oil was dissolved in dioxane (50 mL), and the solution was mixed with tert-butyl 1-piperazinecarboxylate (3.44 g, 18.5 mmol) and sodium carbonate (19.6 g, 185 mmol), followed by stirring at 80° C. for eighteen hours. After standing to cool, the reaction mixture was mixed with chloroform (50 mL) and water (50 mL), followed by separation. The organic layer was washed with brine (100 mL), was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting brown oil was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and thereby yielded tert-butyl 4-(4-benzylmorpholin-3-ylmethyl)piperazinecarboxylate (2.79 g, 60%).

reactant | (4-Benzylmorpholin-3-yl)methanol | 22.9 mmol, 3.00 g | C(C1=CC=CC=C1)N1C(COCC1)CO | C12H17NO2
reactant | triethylamine | 49.2 mmol, 6.30 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 18.5 mmol, 3.20 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | tert-butyl 1-piperazinecarboxylate | 18.5 mmol, 3.44 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium carbonate | 185 mmol, 19.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-methyl-3-(piperazinylmethyl)morpholine | CN1C(COCC1)CN1CCNCC1 | C10H21N3O
